US06528068B1
Synthesis of N-lauroylsarcosine butyl ester
One hundred and thirty-five point five(135.5) grams of N-lauroylsarcosine (ex. Kawaken Fine Chemicals Co., Ltd.) and 200 ml of 1-butanol were charged into a 500-milliliter flask. Further, 4.99 g of conc. sulfuric acid were added as the catalyst. The mixture was heated under reflux for reaction for 6 hours.

reactant | N-lauroylsarcosine | C(CCCCCCCCCCC)(=O)N(C)CC(=O)O | C15H29NO3
reactant | sulfuric acid | 4.99 g | S(O)(O)(=O)=O | H2O4S
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | N-lauroylsarcosine butyl ester | C(CCC)OC(CN(C)C(CCCCCCCCCCC)=O)=O | C19H37NO3
